US07741351B2
N-{5-[3-(aminomethyl)phenyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide
A 1.0M solution of lithium aluminium hydride in tetrahydrofuran (8 ml) was cooled to 0° C. in an ice/methanol bath with stirring under argon. The solution was then treated dropwise with a solution of N-[5-(3-cyanophenyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide (0.67 g, 1.97 mmol) in dry tetrahydrofuran (20 ml) over 15 mins. The cooling bath was removed and the whole mix stirred at reflux for 2 h. The reaction mix was allowed to cool to room temperature and quenched with water (0.8 ml), 10% NaOH (0.8 ml), and water again (1.2 ml). The reaction mix was dried over sodium sulphate, filtered and the filtrate evaporated under reduced pressure to give the title compound as a yellow oil (0.67 g, 100%).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-[5-(3-cyanophenyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | 1.97 mmol, 0.67 g | C(#N)C=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C19H20N2O2S
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-{5-[3-(aminomethyl)phenyl]-2,3-dihydro-1H-inden-2-yl}-2-propanesulfonamide | 0.67 g, 100% | NCC=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C19H24N2O2S
